US08350028B2
1-Isopropyl-3-[2-(4-methoxy-benzylamino)-quinolin-6-yl]-urea
The title compound, MS: m/e=365.1 (M+H+), was prepared in accordance with the general method of example 14 from 2-chloro-6-nitro-quinoline, 4-methoxy-benzylamine and isopropyl isocyanate.

reactant | 2-chloro-6-nitro-quinoline | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | 4-methoxy-benzylamine | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
product | 1-Isopropyl-3-[2-(4-methoxy-benzylamino)-quinolin-6-yl]-urea | C(C)(C)NC(=O)NC=1C=C2C=CC(=NC2=CC1)NCC1=CC=C(C=C1)OC | C21H24N4O2
